US07314877B2
2) Production of 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-(1-piperazinyl)methyl-2H-pyridazin-3-one
4-(4-tert-Butoxycarbonyl-1-piperazinyl)methyl-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one (121 mg, 0.26 mmol) was dissolved in trifluoroacetic acid (1.1 mL) under cooling with ice-water, and the solution was stirred for 15 minutes at the same temperature. Water (10 mL) was added to the reaction mixture, and the resultant mixture was made alkaline with potassium carbonate, followed by extraction with chloroform. The organic layer was washed with saturated brine (20 mL) and dried over sodium sulfate anhydrate, and the solvent was removed under reduced pressure, to thereby yield 83 mg (87.4%) of the title compound as a yellow oil.

reactant | 4-(4-tert-Butoxycarbonyl-1-piperazinyl)methyl-2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-2H-pyridazin-3-one | 0.26 mmol, 121 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C=1C=CC2=C(CCO2)C1)CC1CC1)=O | C26H34N4O4
reactant | Water | 10 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 1.1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-cyclopropylmethyl-6-(2,3-dihydro-1-benzofuran-5-yl)-4-(1-piperazinyl)methyl-2H-pyridazin-3-one | C1(CC1)CN1N=C(C=C(C1=O)CN1CCNCC1)C=1C=CC2=C(CCO2)C1 | C21H26N4O2
